US09102625B2
To a solid tert-butyl-3-(pyridin-2-yl)benzylcarbamate (111 mg, 0.39 mmol) was added HCl (4N in dioxane, 0.20 mL, 0.78 mmol), then it was concentrated to give (3-(pyridine-2-yl)phenyl)methanamine (77 mg).

reactant | tert-butyl-3-(pyridin-2-yl)benzylcarbamate | 0.39 mmol, 111 mg | C(C)(C)(C)OC(NCC1=CC(=CC=C1)C1=NC=CC=C1)=O | C17H20N2O2
reactant | HCl | 0.78 mmol, 4N, 0.20 mL | Cl | ClH
product | (3-(pyridine-2-yl)phenyl)methanamine | 77 mg | N1=C(C=CC=C1)C=1C=C(C=CC1)CN | C12H12N2
